US07151109B2
Preparatin of N-(1-ethylpropyl)-2-methylpyrazolo[1,5-a]pyridin-3-amine
To a suspension of 2-methyl-3-amino-pyrazolo[1,5-a]pyridine (0.158 g, 1.07 mmol) and 3-pentanone (0.11 g, 0.14 mL, 1.29 mmol) in methanol (5.0 mL) was added NaCNBH3 (0.095 g, 1.5 mmol) and a drop of acetic acid. The mixture was stirred at room temperature for 18 h. The reaction was partitioned between CH2Cl2 and H2O. The layers were separated and the aqueous layer was extracted with CH2Cl2 (2×). The organic layers were combined and dried over MgSO4 and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography (15% ethyl acetate/hexane) to give 0.196 g (85%) of a yellow oil as the title compound: 1H NMR (400 MHz, CDCl3) δ 8.25 (d, J=7.0 Hz, 1H), 7.37 (d, J=8.9 Hz, 1H), 6.99–6.95 (m, 1H), 6.59 (t, J=6.8 Hz, 1H), 2.87 (quintet, J=5.9 Hz, 1H), 2.44 (s, 3H), 1.57–1.47 (m, 4H), 1.01 (t, J=7.4 Hz, 6H); HRMS (FAB) calcd for C13H19N3+H 218.1657. found 218.1647.

reactant | 2-methyl-3-amino-pyrazolo[1,5-a]pyridine | 1.07 mmol, 0.158 g | CC1=NN2C(C=CC=C2)=C1N | C8H9N3
reactant | 3-pentanone | 1.29 mmol, 0.14 mL, 0.11 g | CCC(CC)=O | C5H10O
reactant | NaCNBH3 | 1.5 mmol, 0.095 g | [BH3-]C#N.[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 5.0 mL | CO | CH4O
product | N-(1-ethylpropyl)-2-methylpyrazolo[1,5-a]pyridin-3-amine | 0.196 g, 85% | C(C)C(CC)NC=1C(=NN2C1C=CC=C2)C | C13H19N3
